US07737141B2
Synthesis of {(1R,2R)-2-benzyloxy-1-[2-(4-chlorophenyl)-2-oxoethoxymethyl]propyl}carbamic acid t-butyl ester
A solution of {(1R,2R)-2-benzyloxy-1-[(methoxymethylcarbamoyl)methoxymethyl]propyl}carbamic acid t-butyl ester (2.42 g) in tetrahydrofuran (50 mL) was cooled to −40° C. and to the mixture was then dropwise added 4-chlorophenylmagnesium bromide (18.3 mL, 1 M tetrahydrofuran solution). The resultant solution was stirred for 1 hour at −40° C., after which the temperature was slowly raised to 0° C. The solution was then diluted with saturated aqueous ammonium chloride. The resultant solution was extracted using ethyl acetate. The organic layer was washed with brine, and then dried over anhydrous magnesium sulfate. Solvent was removed by distillation under reduced pressure, and the resulting residue was purified by silica gel column chromatography (heptane/ethyl acetate 9/1→1/1), to thereby obtain the titled compound (2.61 g). The physical properties of this crude product were as follows.

reactant | {(1R,2R)-2-benzyloxy-1-[(methoxymethylcarbamoyl)methoxymethyl]propyl}carbamic acid t-butyl ester | 2.42 g | C(C)(C)(C)OC(N[C@@H]([C@@H](C)OCC1=CC=CC=C1)COCC(NCOC)=O)=O | C20H32N2O6
reactant | 4-chlorophenylmagnesium bromide | 1 M, 18.3 mL | ClC1=CC=C(C=C1)[Mg]Br
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
product | {(1R,2R)-2-benzyloxy-1-[2-(4-chlorophenyl)-2-oxoethoxymethyl]propyl}carbamic acid t-butyl ester | 2.61 g | C(C)(C)(C)OC(N[C@@H]([C@@H](C)OCC1=CC=CC=C1)COCC(=O)C1=CC=C(C=C1)Cl)=O | C24H30ClNO5
